US09193724B2
Zn(CN)2 (2.45 g, 0.020 mol) and 1,1′-bis(diphenylphosphino)ferrocene (0.045 g, 0.0008 mol) were added to a solution of 3-bromo-5-fluoro pyridine (3.5 g, 0.0198 mol) in dimethylformamide. The reaction vessel was purged with argon for 10 min. Next, Pd2(dba)3 (0.04 g, 0.000043 mol) was added and the reaction vessel was purged with argon for another 5 min. The reaction mixture heated to 130° C. for 40 min under microwave irradiation. The reaction mixture was cooled to RT, diluted with water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (2×100 mL) and dried over sodium sulphate. The combined organic layers were then concentrated under vacuum to get crude product, which was purified by silica gel column chromatography to afford 5-fluoronicotinonitrile. 1H NMR (400 MHz, CDCl3) δ 8.72 (s, 1H), 8.71-8.70 (d, J=4 Hz, 1H), 7.70-7.76 (d, J=4 Hz, 1H).

reactant | 3-bromo-5-fluoro pyridine | 0.0198 mol, 3.5 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Zn(CN)2 | 0.020 mol, 2.45 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0008 mol, 0.045 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Pd2(dba)3 | 0.000043 mol, 0.04 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-fluoronicotinonitrile | FC=1C=NC=C(C#N)C1 | C6H3FN2
